US04889869
(b) 2(S)-benzyloxycarbonylamino-3-cyclohexyl-propanal
116.1 g of 2(S)-benzyloxycarbonylamino-3-cyclohexyl-propionic acid ethyl ester are placed in 2.2 liters of toluene and cooled to -65°. 836 ml of diisobutylaluminium hydride are added dropwise at -65° within 30 minutes and the mixture is then stirred for 20 minutes. Then 84.2 ml of methanol are added dropwise within 10 minutes at -65° and subsequently 825 ml of aqueous potassium sodium tartrate solution without cooling. The reaction mixture is discharged onto 3 liters of potassium sodium tartrate solution/ice and extracted with 5 liters of ether. The ether phase is washed with 2 liters of water, then immediately poured into a solution consisting of 106 g of semicarbazide hydrochloride and 156.5 g of sodium acetate in 620 ml of water and 620 ml of ethanol. The reaction mixture is then stirred at room temperature for 1 hour and subsequently separated in a separating funnel, and the aqueous phase is extracted with 2×1.5 liters of ether. The organic phase is dried over magnesium sulphate and concentrated by evaporation. The crude product is purified by means of flash chromatography (2 kg of silica gel 60, 40-63 μm, eluant A). Concentration by evaporation of the combined product-containing fractions yields the semicarbazone of the title compound, Rf (I)=0.51. 130 g of this semicarbazone are dissolved in 1 liter of THF, and 282 ml of 37% formaldehyde solution and then, at 10°, 143 ml of 0.5N HCl are added thereto. The reaction mixture is stirred at room temperature for 2 hours and is filtered, and the filtrate is washed with 0.5 liter of water, 0.5 liter of NaHCO3 and 0.5 liter of water. The aqueous phases are extracted with 600 ml of ether. The ether phases are dried over magnesium sulphate and concentrated by evaporation. 100 ml of toluene are added to the residue and the whole is concentrated by evaporation to yield the title compound. The latter is further processed immediately.

reactant | 2(S)-benzyloxycarbonylamino-3-cyclohexyl-propionic acid ethyl ester | 116.1 g | C(C)OC([C@H](CC1CCCCC1)NC(=O)OCC1=CC=CC=C1)=O | C19H27NO4
reactant | diisobutylaluminium hydride | 836 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 84.2 ml | CO | CH4O
reactant | potassium sodium tartrate | 825 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | potassium sodium tartrate | 3 liters | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | 2.2 liters | C1(=CC=CC=C1)C | C7H8
product | 2(S)-benzyloxycarbonylamino-3-cyclohexyl-propanal | C(C1=CC=CC=C1)OC(=O)N[C@H](C=O)CC1CCCCC1 | C17H23NO3
